US04826832
2-[(3S,4R)-3-[(1R)-1-allyloxycarbonyloxyethyl]-4-isonicotinoylthio-2-oxo-azetidin-1-yl]-2-triphenylphosphoranylideneacetic acid allyl ester
3.48 g of the silver salt of 2-[(3S,4R)-3-[(1R)-1-allyloxycarbonyloxyethyl]-4-mercapto-2-oxo-azetidin-1yl]-2-triphenylphosphoranylideneacetic acid allyl ester are converted with isonicotinic acid chloride into the title compound analogously to Example 1.

reactant | 2-[(3S,4R)-3-[(1R)-1-allyloxycarbonyloxyethyl]-4-mercapto-2-oxo-azetidin-1yl]-2-triphenylphosphoranylideneacetic acid allyl ester | C(C=C)OC(C(=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N1C([C@@H]([C@H]1S)[C@@H](C)OC(=O)OCC=C)=O)=O | C32H32NO6PS
reactant | isonicotinic acid chloride | C(C1=CC=NC=C1)(=O)Cl | C6H4ClNO
catalyst | silver | 3.48 g | [Ag] | Ag
product | 2-[(3S,4R)-3-[(1R)-1-allyloxycarbonyloxyethyl]-4-isonicotinoylthio-2-oxo-azetidin-1-yl]-2-triphenylphosphoranylideneacetic acid allyl ester | C(C=C)OC(C(=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N1C([C@@H]([C@H]1SC(C1=CC=NC=C1)=O)[C@@H](C)OC(=O)OCC=C)=O)=O | C38H35N2O7PS
